US06835732B2
4-Cloromethyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide
and 2-amino-4-methoxy-7-morpholin-4-yl-benzothiazol (1.0 g, 3.8 mmol), 4-(chloromethyl) benzoyl chloride (810 mg, 4.2 mmol) and pyridine (0.36 ml, 4.5 mmol) are reacted in dichloromethane (20 ml) for 18 h. The reaction is quenched with water (25 ml) and brought to pH 8.0 with sodium carbonate. The mixture is extracted with dichloromethane and the combined organic layers are dried and evapoarted to dryness. Flash chromatography (silica, eluent methylene chloride containing 2.5% methanol) affords the product as white crystalls in 54% yield. MS: m/e=418 (M+H+).

reactant | 2-amino-4-methoxy-7-morpholin-4-yl-benzothiazol | 3.8 mmol, 1.0 g | NC=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC | C12H15N3O2S
reactant | 4-(chloromethyl) benzoyl chloride | 4.2 mmol, 810 mg | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | pyridine | 4.5 mmol, 0.36 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-Cloromethyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | 54% yield | ClCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C20H20ClN3O3S
